US04400380
4.86 g (0.03 mole) of 4-(4-hydroxyphenyl)-3-buten-2-one, 1.2 g (0.04 mole) of paraformaldehyde and 2.6 g (0.03 mole) of morpholine is added to 60 ml of ethanol and 6 ml of concentrated HCl is added thereto. The mixture is heated at reflux temperature for 18 hours and then cooled to room temperature. The resultant mixture is diluted with acetone to a volume of 250 ml and subsequently chilled overnight. The insoluble material is filtered and recrystallized from a mixture of ethyl and methyl alcohols. The crystals are filtered and vacuum dried overnight, yielding (E)-1-(4-hydroxyphenyl)-5-(4-morpholinyl)-1-penten-3-one hydrochloride; m.p. 195°-196° C.

reactant | 4-(4-hydroxyphenyl)-3-buten-2-one | 0.03 mole, 4.86 g | OC1=CC=C(C=C1)C=CC(C)=O | C10H10O2
reactant | paraformaldehyde | 0.04 mole, 1.2 g | C=O | CH2O
reactant | morpholine | 0.03 mole, 2.6 g | N1CCOCC1 | C4H9NO
reactant | HCl | 6 ml | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | (E)-1-(4-hydroxyphenyl)-5-(4-morpholinyl)-1-penten-3-one hydrochloride | Cl.OC1=CC=C(C=C1)\C=C\C(CCN1CCOCC1)=O | InChI=1S/C15H19NO3.ClH/c17-14-4-1-13(2-5-14)3-6-15(18)7-8-16-9-11-19-12-10-16;/h1-6,17H,7-12H2;1H/b6-3+;
